US04668677
Preparation of 1-neopentylamino-4-phenylphthalazine
To a suspension of 100 g of 4-phenyl-1(2H)-phthalazinone and 96.2 g of neopentylamine in 300 ml of p-xylene were added dropwise 83.7 g of phosphorus oxychloride with stirring and the resulting mixture was stirred under reflux for 4 hours. After allowing to be cooled, a saturated aqueous solution of NaHCO3 was added to the reaction mixture. Then, the mixture was extracted with chloroform and the organic layer was separated, dried and then concentrated. The residue was recrystallized from ethanol to afford the title compound as a pale yellow crystal. 100.8 g (Yield, 77%) Melting point: 215.5°-216.5° C.

reactant | 4-phenyl-1(2H)-phthalazinone | 100 g | C1(=CC=CC=C1)C1=NNC(C2=CC=CC=C12)=O | C14H10N2O
reactant | neopentylamine | 96.2 g | C(C(C)(C)C)N | C5H13N
reactant | phosphorus oxychloride | 83.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | p-xylene | 300 ml | CC=1C=CC(=CC1)C | C8H10
product | 1-neopentylamino-4-phenylphthalazine | C(C(C)(C)C)NC1=NN=C(C2=CC=CC=C12)C1=CC=CC=C1 | C19H21N3
